US08614209B2
Piperidin-1-yl-(5-pyridin-2-yl-thiophen-3-yl)-methanone (EE-01)
A mixture of piperidin-1-yl-(5-bromo-thiophen-3-yl)-methanone (76 mg, 1 eq.), tributyl(2-pyridyl)tin (0.102 mL, 1 eq.) and PdCl2(PPh3)2 (0.011 g, 0.1 eq) were heated at 100° C. in toluene (1 mL) for 6 hours. The solvent was evaporated and the residue purified by column chromatography (EtOAc/iso-hexane) to give the desired product (9.2 mg, 12%). LCMS m/z 273 [M+H]+ R.T.=2.73 min (Analytical Method 3).

reactant | piperidin-1-yl-(5-bromo-thiophen-3-yl)-methanone | 76 mg, 1 eq. | N1(CCCCC1)C(=O)C1=CSC(=C1)Br | C10H12BrNOS
reactant | tributyl(2-pyridyl)tin | 0.102 mL, 1 eq. | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
catalyst | PdCl2(PPh3)2 | 0.011 g, 0.1 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Piperidin-1-yl-(5-pyridin-2-yl-thiophen-3-yl)-methanone | 9.2 mg, 12% | N1(CCCCC1)C(=O)C1=CSC(=C1)C1=NC=CC=C1 | C15H16N2OS
